* source DESIGN1
R_R2         0 N00148  5.9k TC=0,0 
R_R3         N00148 N00995  51.1k TC=0,0 
R_R4         N00197 N00148  10k TC=0,0 
V_V_DAC         N00197 0 0Vdc
V_V1         N01044 0 12Vdc
R_R6         0 N00995  1k TC=0,0 
X_U2         N01044 N00148 N01643 0 N00995 LP2951 PARAMS:  CT=800P IB=20N
+  IMAX=160M IVD1=100U LDREG=.1/.5 LINREG=.001 M1ILIM=3.90625M M2ILIM=0 RSENSE=
+ {0.1} RT=.5K TC1IMAX=0 TC1VD=0 TC1VR=0 TC2IMAX=0 TC2VD=0 TC2VR=0 VD1=50M
+  VDMIN=40M VMAIP=9 VR=1.235
R_R7         N01643 N00995  100k TC=0,0 
V_V2         N02542 0 3.3Vdc
R_R8         N02542 N02549  1k TC=0,0 
C_C1         N02549 0  100n  TC=0,0 
